US06897326B2
A method of synthesis for a compound obtained by converting one terminal of 1,14-tetradecane dicarboxylic acid into a benzyl ester is described. The compound can be synthesized by using Japanese Patent Application Public Disclosure (Kokai) Hei 04-18245 or “Organic Synthesis II” pages 276-277 as references. That is, 5 g (17.5 millimoles) of 1,14-tetradecane dicarboxylic acid, 8.37 g of benzyl alcohol, 50 ml of toluene and para-toluene sulfonic acid were placed in a flask and were allowed to reflux while using a Dean Stark dehydration device to remove water. After eight hours of refluxing, about one milliliter of water had been removed. The reaction solution was dissolved in hexane and washed using a saturated sodium bicarbonate solution first and water second. The organic phase was dried using sodium sulfate, and the solvent was removed using reduced pressure distillation. The product was recrystallized using hexane, and 8.1 g of 1,14-tetradecane dicarboxylic acid dibenzyl ester was obtained. Next, 4.8 g (16.7 millimoles) of 1,14-tetradecane dicarboxylic acid, 1.8 g of benzyl alcohol, 50 ml of toluene and sulfuric acid were freshly added to 5.97 g (12.8 millimoles) of this 1,14-tetradecane dicarboxylic acid dibenzyl ester, and the mixture was heated and allowed to reflux for five hours. The reaction mixture was subsequently dissolved in 300 ml of isopropanol/chloroform (1/5 volumetric ratio), and the solution was washed with water and dried using sodium sulfate. The solution was concentrated under reduced pressure and recrystallized using a mixed solvent of ether/hexane (1/4 volumetric ratio) to obtain 3.77 g (10.1 millimoles) of 1,14-tetradecane dicarboxylic acid monobenzyl ester.

reactant | 1,14-tetradecane dicarboxylic acid | C(CCCCCCCCCCCCCC(=O)O)C(=O)O | C16H30O4
reactant | 1,14-tetradecane dicarboxylic acid | 17.5 millimoles, 5 g | C(CCCCCCCCCCCCCC(=O)O)C(=O)O | C16H30O4
reactant | benzyl alcohol | 8.37 g | C(C1=CC=CC=C1)O | C7H8O
reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,14-tetradecane dicarboxylic acid dibenzyl ester | 8.1 g | C(C1=CC=CC=C1)OC(=O)CCCCCCCCCCCCCCC(=O)OCC1=CC=CC=C1 | C30H42O4
